US09211533B2
946 mg (15.0 mmol) of ammonium formate (MW: 63.06) was introduced in a 20-mL Schlenk tube and subjected to argon-gas replacement. To this, 5 mL of dehydrated methanol, 582 μL (5.0 mmol) of acetophenone (MW: 120.15), 582 μL (5.0 mmol) of acetic acid, and 12.1 mg (0.025 mmol, S/C=200) of the iridium catalyst Ir-1 (MW: 484.01) were added, and the mixture was stirred while heating at 60° C. for 5 hr. After distillation of the solvent, a saturated sodium hydrogen carbonate solution was added, then a product was extracted with methylene chloride, the organic layer was washed with water, and the product was dried with sodium sulfate. The drying agent was removed by filtration and the methylene chloride was distilled away to give a crude product DL-1-phenylethylamine. Its conversion rate was 100% based on NMR measurement, with 92.8% of DL-1-phenylethylamine, 0.4% of 1-phenylethanol, and 6.8% of other by-products.

reactant | ammonium formate | 15.0 mmol, 946 mg | C(=O)[O-].[NH4+]
reactant | acetophenone | 5.0 mmol, 582 μL | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | acetic acid | 5.0 mmol, 582 μL | C(C)(=O)O | C2H4O2
catalyst | iridium | 0.025 mmol, 12.1 mg | [Ir] | Ir
solvent | methanol | 5 mL | CO | CH4O
product | DL-1-phenylethylamine | CC(C1=CC=CC=C1)N | C8H11N
